* C:\Users\fjmoy\OneDrive\Documentos\Fran\BuenosAires\2026\1C\Taller-de-Circuitos-Grupo-4\draft-circuitos.asc
* Generated by LTspice 24.1.9 for Windows.
Q6 Vo N003 Vreg 0 BC858B
Q5 N003 N005 Vo 0 BC848B
Q1 N004 Vref N008 0 BC848B
Q4 N005 N004 Vreg 0 BC858B
Q3 N004 N004 Vreg 0 BC858B
Q2 N005 N006 N008 0 BC848B
Q8 N008 N011 0 0 BC848B
Q7 N011 N011 0 0 BC848B
R1 Vo N007 10k
R2 0 N007 10k
RL 0 Vo 50
R3 Vreg N011 1k
Vref Vref 0 2.5
Vreg N010 0 9.5
Vripple Vreg N010 SINE(0 200m 50)
C1 N006 N009 1
V1 N009 0 SINE(0 1m 1k) AC 1
L1 N007 N006 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\fjmoy\AppData\Local\LTspice\lib\cmp\standard.bjt
* .op
* .tran 10m
* .dc Vreg 1 15 0.1
.ac dec 10 1m 1meg
.backanno
.end
