* C:\Users\Santiago\Desktop\facu\2026c1\Circuitos G5\CheckPoint1\Simulaciones\Mediciones TP\Ganancia de Lazo.asc
Q2 N002 Vref N005 0 BC547B
Q4 N002 N002 Vreg 0 BC557B
R1 Vo A 10k
R2 0 A 10k
R3 Vreg N006 4k7
Vreg1 Vreg 0 9.5
Qtip32a Vx N001 Vreg 0 PNP
RS Vx Vo 1
Q3 N003 N002 Vreg 0 BC557B
Q5 N003 N004 N005 0 BC547B
Q6 N005 N006 0 0 BC547B
Q7 N006 N006 0 0 BC547B
Q1 N001 N003 Vx 0 BC547B
R4 Vreg Vref 680
XU1 0 Vref Vref TL431
V1 N007 0 AC 1
C1 N004 N007 1
L1 A N004 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\Santiago\AppData\Local\LTspice\lib\cmp\standard.bjt
* .include tip32a.lib
.lib opamp.sub
.inc lm358.lib
.include TL431.mod
.ac dec 10 1 10Meg
.lib TL431.mod
.backanno
.end
