* C:\Users\fjmoy\OneDrive\Documentos\Fran\BuenosAires\2026\1C\Taller-de-Circuitos-Grupo-5\Checkpoint 5\Simulaciones\PWM y Gate driver.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 N005 pwm PWM VM=1, fs=100kHz Dmin=0.05, Dmax=0.9, Voffset=0 ;§pnba vc)c
X§U3 pwm c1 c2 dead_time Td=1000ns ;§pnba c)c1)c2
M1 Vcc N004 N001 N001 IRFZ44N
M2 N001 N007 0 0 IRFZ44N
R1 N001 0 50
V1 Vcc 0 12
Vcont N005 0 0.5
R2 N004 N003 10
R3 N007 N006 10
X§U2 c1 N002 N001 0 N003 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=9V ;§pnba c)Vdd)Vss)Vssin)out
X§U4 c2 Vcc 0 0 N006 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=9V ;§pnba c)Vdd)Vss)Vssin)out
V2 N002 N001 12
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\fjmoy\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 40u 0 0.5u
.lib switching.lib
.backanno
.end
